US06914074B2
2-Methoxy-6-phenylnaphthalene
The title compound was prepared by reacting 2-bromo-6-methoxynaphthalene (1.97 g, 8.31 mmol) with phenylmagnesium bromide according to the method used to prepare intermedite 10 to yield 1.59 g (82%) of a white solid: mp 122-126° C.; 1H NMR (CDCl3): δ 3.94 (3H, s), 7.16-7.18 (2H, m), 7.34-7.37 (1H, m), 7.46-7.49 (2H, m), 7.69-7.72 (2H, m), 7.78-7.82 (2H, m), 7.97 (1H, s); MS (EI) m/z 234.2 (M)+.

reactant | 2-bromo-6-methoxynaphthalene | 8.31 mmol, 1.97 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | 2-Methoxy-6-phenylnaphthalene | COC1=CC2=CC=C(C=C2C=C1)C1=CC=CC=C1 | C17H14O
